### ISSUE TITLE
RFC: heterogeneous noConfusion

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#11450]
For issue #11449 one needs to get injectivity results out of heterogeneous equality of constructors, if their indices are provably equal. This is possible, by generalizing the `noConfusion` principles:

```
opaque double : Nat → Nat

inductive Parity : Nat -> Type
| even (n) : Parity (double n)
| odd  (n) : Parity (Nat.succ (double n))

set_option trace.Meta.Match.matchEqs true

def Parity.hnoConfusion_type (P : Prop) : (n₁ : Nat) → (p₁ : Parity n₁) → (n₂ : Nat) → (p₂ : Parity n₂) → Prop
  | _, Parity.even i, _, Parity.even j => (i = j → P) → P
  | _, Parity.even i, _, Parity.odd j => P
  | _, Parity.odd j, _, Parity.even i => P
  | _, Parity.odd i, _, Parity.odd j => (i = j → P) → P

theorem Parity.hnoConfusion n₁ (p₁ : Parity n₁) n₂ (p₂ : Parity n₂) (hn : n₁ = n₂) (hp : p₁ ≍ p₂) :
    Parity.hnoConfusion_type P n₁ p₁ n₂ p₂ := by
  cases hn; cases hp; cases p₁
  · intro h; apply h; rfl
  · intro h; apply h; rfl

example
  (motive : (x : Nat) → Parity x → Sort u_1)
  (h_2 : (j : Nat) → motive (double j) (Parity.even j))
  (j n : Nat)
  (heq_1 : double n = double j)
  (heq_2 : Parity.even n ≍ Parity.even j):
  h_2 n ≍ h_2 j := by
  
  apply Parity.hnoConfusion _ _ _ _ heq_1 heq_2
  intro rfl
  rfl
```

I plan to provide that construction in general.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by Rob23oba** [comment]
In case it proves useful: I thought about this in the context of decidable heq a while ago and came up with this:
```lean-4
opaque f : Nat → Nat

inductive I : (n : Nat) → Type where
  | mk n : I (f n)

-- helper to eliminate `HEq`
@[elab_as_elim]
abbrev HEq.recEq.{u_1, u} {α : Sort u} {a : α} {motive : (b : α) → (t : a ≍ b) → Sort u_1}
    (refl : motive a (HEq.refl a)) {b : α} (t : a ≍ b) : motive b t :=
  @Eq.rec α a (fun b t => motive b (heq_of_eq t)) refl b (eq_of_heq t)

-- basically same thing as before with more indices
abbrev I.noConfusionHEqType (P : Sort u) (a : I m) (b : I n) : Sort u :=
  a.casesOn fun n1 => b.casesOn fun n2 => (n1 = n2 → P) → P

abbrev I.noConfusionHEq {P : Sort u} {m : Nat} {a : I m} : -- `P` as before + indices + first value
    -- indices + second value with equalities interleaved
    {n : Nat} → (h₁ : m = n) → {b : I n} → (h₂ : a ≍ b) → I.noConfusionHEqType P a b :=
  -- cool eta-reduced cast
  @Eq.rec Nat m (fun n _ => {b : I n} → (h₂ : a ≍ b) → I.noConfusionHEqType P a b)
    (@HEq.recEq (I m) a (fun b _ => I.noConfusionHEqType P a b)
      -- same thing as with regular `noConfusion`
      (a.casesOn fun _ h => h rfl))
```
(https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Puzzle.3A.20Decidable.20HEq/near/536768585)
